US05235115
Preparation of 2-Methoxy-6-(1-Bromoethyl) Naphthalene:
A mixture of 1.0 gram of 2-methoxy-6-ethylnaphthalene and 1.05 grams of N-bromosuccinimide in 10.0 ml. of carbon tetrachloride was refluxed for 1 hour. During this time, the solids migrated from the bottom of the reaction flask to the top. The mixture was cooled to room temperature and the solids were separated from the liquid by filtration on a small suction filter funnel. The carbon tetrachloride solvent was removed using a rotary vacuum evaporator. The yield was 1.55 grams of a pale oil that solidified at room temperature. Based on 1H nuclear magnetic resonance data, the product had a structure consistent with that of 2-methoxy-6- (1-bromoethyl) naphthalene.

reactant | 2-methoxy-6-ethylnaphthalene | 1.0 gram | COC1=CC2=CC=C(C=C2C=C1)CC | C13H14O
reactant | N-bromosuccinimide | 1.05 grams | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Methoxy-6-(1-Bromoethyl) Naphthalene | COC1=CC2=CC=C(C=C2C=C1)C(C)Br | C13H13BrO
